US08293754B2
A mixture of 379 mg of ethyl 5-methyl-4-oxo-2-(thiophen-3-ylmethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate as synthesized in Production Example 1, 3.4 mL of 1N aqueous sodium hydroxide solution and 2.2 mL of ethanol was heated under reflux for 2 hours. After cooling off, the reaction liquid was poured on ice, rendered acidic with diluted hydrochloric acid, and the precipitated crystals were recovered by filtration. After washing with water, the crystals were dried by heating under reduced pressure, to provide 320 mg of 5-methyl-4-oxo-2-(thiophen-3-ylmethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid.

reactant | ethyl 5-methyl-4-oxo-2-(thiophen-3-ylmethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylate | 379 mg | CC1=C(SC=2N=C(NC(C21)=O)CC2=CSC=C2)C(=O)OCC | C15H14N2O3S2
reactant | sodium hydroxide | 1N, 3.4 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 2.2 mL | C(C)O | C2H6O
product | 5-methyl-4-oxo-2-(thiophen-3-ylmethyl)-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | 320 mg | CC1=C(SC=2N=C(NC(C21)=O)CC2=CSC=C2)C(=O)O | C13H10N2O3S2
